US07919519B2
Synthesized according to Scheme B2 and general procedure F using methyl 1-(4-bromo-3-fluorobenzyl)azetidine-3-carboxylate (1.76 g, 5.81 mmol) and 5-(1-phenylpropyl)-benzofuran-2-ylboronic acid (1.63 g, 5.81 mmol) to give methyl 1-((3-fluoro-4-(5-(1-phenylpropyl)benzofuran-2-yl)phenyl)methyl)azetidine-3-carboxylate. MS (ESI) m/z: Calculated: 457.2; Observed: 458.3 (M++1).

reactant | methyl 1-(4-bromo-3-fluorobenzyl)azetidine-3-carboxylate | 5.81 mmol, 1.76 g | BrC1=C(C=C(CN2CC(C2)C(=O)OC)C=C1)F | C12H13BrFNO2
reactant | 5-(1-phenylpropyl)-benzofuran-2-ylboronic acid | 5.81 mmol, 1.63 g | C1(=CC=CC=C1)C(CC)C=1C=CC2=C(C=C(O2)B(O)O)C1 | C17H17BO3
product | methyl 1-((3-fluoro-4-(5-(1-phenylpropyl)benzofuran-2-yl)phenyl)methyl)azetidine-3-carboxylate | FC=1C=C(C=CC1C=1OC2=C(C1)C=C(C=C2)C(CC)C2=CC=CC=C2)CN2CC(C2)C(=O)OC | C29H28FNO3
